US05019298
32.2 g (0.12 mol) of ethyl 4'-acetyl-4-biphenylcarboxylate, 150 ml of chloroform and 50 ml of ethanol were supplied into a four-necked flask provided with a stirrer and a thermometer. Then 2.3 g (0.06 mol) of sodium boron hydride was added at 15°-25° C. over a period of 10 minutes. The mixture was maintained at the same temperature for 2 hours and the resulting reaction solution was poured into ice-water and extracted twice with 200 ml of ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure to form 30.8 g (95% yield) of ethyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate (III-5).

reactant | ethyl 4'-acetyl-4-biphenylcarboxylate | 0.12 mol, 32.2 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C17H16O3
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium boron hydride | 0.06 mol, 2.3 g | B.[Na]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate | 30.8 g, 95% yield | OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C17H18O3
